US08754085B2
Step 2: 2-Phenyl-3-p-tolyl-pyrido[2,3-b]pyrazine
A mixture of 2-chloro-3-p-tolyl-pyrido[2,3-b]pyrazine (800 mg, 3.13 mmol), phenylboronic acid (572 mg, 4.69 mmol) and K2CO3 (1297 mg, 9.39 mmol) in dioxane (10 ml) was degassed by bubbling nitrogen through (×3). PdCl2(dppf) (229 mg, 0.313 mmol) was added and the reaction mixture was degassed by bubbling nitrogen through (×3). The resulting mixture was heated using microwave radiation at 150° C. for 2 hours. PdCl2(dppf) (229 mg, 0.313 mmol) was added and the mixture was heated using microwave radiation at 150° C. for 2 hours. After cooling to RT, the mixture was diluted with water and EtOAc, and filtered through Celite® (filter material). The phases were separated and the aqueous extracted with EtOAc The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was purified by chromatography on silica eluting with 2-5% THF/DCM to give a contaminated gum. The material was re-purified by chromatography on silica eluting with 0-60% EtOAc/iso-hexane to afford the title compound;

reactant | 2-chloro-3-p-tolyl-pyrido[2,3-b]pyrazine | 3.13 mmol, 800 mg | ClC=1N=C2C(=NC1C1=CC=C(C=C1)C)N=CC=C2 | C14H10ClN3
reactant | phenylboronic acid | 4.69 mmol, 572 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 9.39 mmol, 1297 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.313 mmol, 229 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.313 mmol, 229 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Phenyl-3-p-tolyl-pyrido[2,3-b]pyrazine | C1(=CC=CC=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)C)N=CC=C2 | C20H15N3
